US08703384B2
Synthesis of 4-hydroxynaphthyl-1-tetrahydrothiophenium 2-(adamantane-1-carbonyloxy)-1,1,3,3,3-pentafluoropropane-sulfonate (PAG-B1)
First 10 g (0.069 mol) of 1-naphthol and 7.2 g (0.069 mol) of tetramethylene sulfoxide were dissolved in 50 g of methanol and cooled at −16° C. An excess amount of hydrogen chloride gas was fed into the solution at a temperature below 20° C. Nitrogen was bubbled into the solution to expel the excess of hydrogen chloride gas whereupon the reaction solution was concentrated. Water and diisopropyl ether were added to the concentrate, from which a water layer, aqueous solution of 4-hydroxynaphthyl-1-tetrahydrothiophenium chloride was separated. Next, the aqueous solution (corresponding to 0.023 mol) of 4-hydroxynaphthyl-1-tetrahydrothlophenium chloride was mixed with an aqueous solution (corresponding to 0.021 mol) of sodium 1,1,3,3,3-pentafluoro-2-(adamantane-1-carbonyloxy)propanesulfonate which was synthesized according to the formulation described in JP-A 2007-145797 (or U.S. Pat. No. 7,511,169). The mixture was extracted with 100 g of dichloromethane and 50 g of methyl isobutyl ketone. The organic layer was washed with water, the solvents were distilled off in vacuum, and isopropyl ether was added to the residue for crystallization. Subsequent filtration and drying gave the target compound. White crystal, 6.2 g, yield 43%.

reactant | 1-naphthol | 0.069 mol, 10 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | tetramethylene sulfoxide | 0.069 mol, 7.2 g | C1CCCS1=O | C4H8OS
reactant | hydrogen chloride | Cl | ClH
reactant | sodium 1,1,3,3,3-pentafluoro-2-(adamantane-1-carbonyloxy)propanesulfonate | 0.021 mol | FC(C(C(F)(F)F)OC(=O)C12CC3CC(CC(C1)C3)C2)(S(=O)(=O)[O-])F.[Na+]
solvent | methanol | 50 g | CO | CH4O
product | 4-hydroxynaphthyl-1-tetrahydrothiophenium 2-(adamantane-1-carbonyloxy)-1,1,3,3,3-pentafluoropropane-sulfonate | yield 43% | C12(CC3CC(CC(C1)C3)C2)C(=O)OC(C(S(=O)(=O)[O-])(F)F)C(F)(F)F.OC2=CC=C(C3=CC=CC=C23)[S+]2CCCC2 | InChI=1S/C14H17F5O5S.C14H14OS/c15-13(16,17)10(14(18,19)25(21,22)23)24-11(20)12-4-7-1-8(5-12)3-9(2-7)6-12;15-13-7-8-14(16-9-3-4-10-16)12-6-2-1-5-11(12)13/h7-10H,1-6H2,(H,21,22,23);1-2,5-8H,3-4,9-10H2
